US07659263B2
To a solution of 2-chloro-5-methylsulfanylbenzoic acid (20.2 g, 100 mmol) in N,N-dimethylformamide (200 ml) were added potassium carbonate (15.2 g, 110 mmol) and methyl iodide (6.8 ml, 110 mmol). After stirring at room temperature for 3 hr, diethyl ether (300 ml) was added. The organic layer was washed successively with water (200 ml×3) and saturated brine (200 ml), and dried over magnesium sulfate. Filtration and concentration gave methyl 2-chloro-5-methylsulfanylbenzoate (18.5 g, yield 86%).

reactant | 2-chloro-5-methylsulfanylbenzoic acid | 100 mmol, 20.2 g | ClC1=C(C(=O)O)C=C(C=C1)SC | C8H7ClO2S
reactant | potassium carbonate | 110 mmol, 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 110 mmol, 6.8 ml | CI | CH3I
reactant | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | methyl 2-chloro-5-methylsulfanylbenzoate | 18.5 g, yield 86% | ClC1=C(C(=O)OC)C=C(C=C1)SC | C9H9ClO2S
